US08278343B2
Preparation 53: 3-[2-(4-Chloro-phenyl)-pyrimidin-5-yloxymethyl]-1-(2-methoxy-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester (±)
The title compound was prepared according to the method described for Preparation 29 using 2-(4-chloro-phenyl)-pyrimidin-5-ol (Preparation 27) and 3-iodomethyl-1-(2-methoxy-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester (Preparation 15) to afford the racemate as a white solid (110 mg, 45.2%)

reactant | 2-(4-chloro-phenyl)-pyrimidin-5-ol | ClC1=CC=C(C=C1)C1=NC=C(C=N1)O | C10H7ClN2O
reactant | 3-iodomethyl-1-(2-methoxy-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CC1)C(C1=C(C=CC=C1)OC)=O)CI | C16H20INO4
product | 3-[2-(4-Chloro-phenyl)-pyrimidin-5-yloxymethyl]-1-(2-methoxy-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CC1)C(C1=C(C=CC=C1)OC)=O)COC=1C=NC(=NC1)C1=CC=C(C=C1)Cl | C26H26ClN3O5
